US06833378B2
[2-(2,6-Dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-(1-ethyl-propyl )-amine
To a solution of [2-(4-bromo-2,6-dimethyl-phenoxy)-4-(1-ethyl-propylamino)-6-methyl-pyridin-3-yl]-methanol (43 mg, 0.106 mmol) in dry THF was added 1.0M lithium aluminum hydride in diethyl ether (0.25 ml) and aluminum chloride (28 mg). The resulting mixture was stirred at room temperature overnight. The mixture was quenched with water, 2NaOH, then water. Solid formed and filtered through celite, washed with THF, then chloroform. The filtrate was concentrated to dryness. The residue was diluted with water and ethyl acetate. The organic layer was separated, dried and concentrated to give the crude material. The title compound was isolated after silca gel chromatography. 1H NMR(CDCl3) d 6.9-7.1(m,3H), 6.07(s,1H), 3.35(d,1H), 3.33(m,1H), 2.14(s,3H), 2.13(s,3H), 2.12(s,6H), 1.5-1.8(m,4H), 0.97(t,6H) ppm.

reactant | [2-(4-bromo-2,6-dimethyl-phenoxy)-4-(1-ethyl-propylamino)-6-methyl-pyridin-3-yl]-methanol | 0.106 mmol, 43 mg | BrC1=CC(=C(OC2=NC(=CC(=C2CO)NC(CC)CC)C)C(=C1)C)C | C20H27BrN2O2
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | 0.25 ml | C(C)OCC | C4H10O
solvent | aluminum chloride | 28 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | [2-(2,6-Dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-(1-ethyl-propyl )-amine | CC1=C(OC2=NC(=CC(=C2C)NC(CC)CC)C)C(=CC=C1)C | C20H28N2O
